US07557136B2
To a solution of commercial [(2R,4R)-4-hydroxypyrrolidin-2-yl]acetic acid hydrochloride (5.03 g, 27.69 mmol), triethylamine (11.32 g, 110.77 mmol) in water (16.5 ml) and tetrahydrofuran (25 ml) at 0° C. under argon was added drop wise a solution of the 4-phenyl-benzoyl chloride in dry tetrahydrofuran (25 ml). The reaction was allowed to warm to RT and stirred overnight The reaction mixture was concentrated and the crude product was acidified under stirring at 5° C. adding 100 ml of HCl 1N. The white suspension was stirred at 5° C. for 10 minutes, filtered off under vacuum, rinsed with HCl 1N and water. After drying under vacuum the still wet white solid was taken up in 14 ml of tetrahydrofuran and brought to reflux until dissolution, and hexane was added to precipitate the solid. The whole was allowed to cool down to RT under stirring for 5 minutes and was filtered off and rinsed with hexane to give [(2S,4R)-1-(biphenyl-4-ylcarbonyl)-4-hydroxypyrrolidin-2-yl] acetic acid as a white powder (4.344 g). Yield: 72%. HPLC purity: 84%

reactant | [(2R,4R)-4-hydroxypyrrolidin-2-yl]acetic acid hydrochloride | 27.69 mmol, 5.03 g | Cl.O[C@@H]1C[C@@H](NC1)CC(=O)O
reactant | triethylamine | 110.77 mmol, 11.32 g | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-benzoyl chloride | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
solvent | water | 16.5 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | [(2S,4R)-1-(biphenyl-4-ylcarbonyl)-4-hydroxypyrrolidin-2-yl] acetic acid | 4.344 g, Yield: 72% | C1(=CC=C(C=C1)C(=O)N1[C@@H](C[C@H](C1)O)CC(=O)O)C1=CC=CC=C1 | C19H19NO4
